US04564479
The procedure described in Example 26 is repeated, but using 4.79 g (25 mmols) of 4-bromochlorobenzene and 2.99 ml (27.5 mmols) of ethyl acrylate. After a reaction time of 8 hours at 130° C., 3.79 g (18.0 mmols) of ethyl 4-chlorocinnamate are obtained, corresponding to a yield of 72% of theory (conversion figure 7200; Pd content 0.01 mol %).

reactant | 4-bromochlorobenzene | 25 mmols, 4.79 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | ethyl acrylate | 27.5 mmols, 2.99 ml | C(C=C)(=O)OCC | C5H8O2
catalyst | Pd | [Pd] | Pd
product | ethyl 4-chlorocinnamate | 18.0 mmols, 3.79 g, yield of 72% | ClC1=CC=C(C=CC(=O)OCC)C=C1 | C11H11ClO2
